### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/FDRep): The forgetful functor from `FDRep R G` to `Rep R G` preserves finite (co)limits

### PR DESCRIPTION
**Pull request by smorel394**
For finite limits, we need them to exist in `FDRep R G`, so we need to assume that `R` is a Noetherian ring.

- [x] depends on: #27132 
- [x] depends on: #27094

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RepresentationTheory/FDRep.lean [hunk 1]
```diff
@@ -148,6 +149,14 @@ instance : HasForget₂ (FDRep R G) (Rep R G) where
 theorem forget₂_ρ (V : FDRep R G) : ((forget₂ (FDRep R G) (Rep R G)).obj V).ρ = V.ρ := by
   ext g v; rfl
 
+instance [IsNoetherianRing R] : PreservesFiniteLimits (forget₂ (FDRep R G) (Rep R G)) := by
+  change PreservesFiniteLimits ((forget₂ (FGModuleCat R) (ModuleCat R)).mapAction G)
+  infer_instance
+
+instance : PreservesFiniteColimits (forget₂ (FDRep R G) (Rep R G)) := by
+  change PreservesFiniteColimits ((forget₂ (FGModuleCat R) (ModuleCat R)).mapAction G)
+  infer_instance
```
Comment (ocfnash) [inline Mathlib/RepresentationTheory/FDRep.lean]: We have a tool for this exact pattern:
```suggestion
instance [IsNoetherianRing R] : PreservesFiniteLimits (forget₂ (FDRep R G) (Rep R G)) :=
  inferInstanceAs <| PreservesFiniteLimits <| (forget₂ (FGModuleCat R) (ModuleCat R)).mapAction G

instance : PreservesFiniteColimits (forget₂ (FDRep R G) (Rep R G)) :=
  inferInstanceAs <| PreservesFiniteColimits <| (forget₂ (FGModuleCat R) (ModuleCat R)).mapAction G
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

**Comment by ocfnash** [comment]
bors merge

File: Mathlib/RepresentationTheory/FDRep.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/RepresentationTheory/FDRep.lean]: (on second thought, no need to bother you with this: I can just apply this suggestion and send it to bors myself)
